US07872028B2
Step 5. (R)-tert-butyl 2-((S)-(3-chlorophenyl)(2-(methoxycarbonylamino)ethoxy)methyl)morpholine-4-carboxylate
To a solution of (R)-tert-butyl 2-((S)-(2-aminoethoxy)(3-chlorophenyl)methyl)morpholine-4-carboxylate (1.62 g, 4.38 mmol) and DMAP (280 mg) in dry CH2Cl2 (15 mL), Et3N (1.33 g, 13.14 mmol) was added. The resulting mixture was cooled to 0-5° C. in an ice-water bath and a solution of methyl chloroformate (2.06 g, 21.9 mmol) in dry CH2Cl2 (5 mL) was added dropwise. The reaction mixture was stirred for 1-2 h at 0-5° C. Tlc showed the starting material had disappeared. Water (30 mL) was added and the aqueous layer was extracted with CH2Cl2 (3×10 mL). The combined organic layers were washed with 10% aq citric acid (2×10 mL) and brine, dried over Na2SO4, filtered and concentrated to the crude product, which was purified by preparative HPLC to afford the desired product (120 mg, 6%). 1H NMR (MeOD) 1.45 (s, 9H), 2.80-2.92 (m, 2H), 3.0 (m, 1H), 3.60 (s, 3H), 4.15 (m, 2H), 4.25 (d, 1H), 7.20-7.35 (m, 4H).

reactant | (R)-tert-butyl 2-((S)-(2-aminoethoxy)(3-chlorophenyl)methyl)morpholine-4-carboxylate | 4.38 mmol, 1.62 g | NCCO[C@H]([C@H]1CN(CCO1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)Cl | C18H27ClN2O4
reactant | Et3N | 13.14 mmol, 1.33 g | CCN(CC)CC | C6H15N
reactant | methyl chloroformate | 21.9 mmol, 2.06 g | ClC(=O)OC | C2H3ClO2
reactant | Water | 30 mL | O | H2O
catalyst | DMAP | 280 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl 2-((S)-(3-chlorophenyl)(2-(methoxycarbonylamino)ethoxy)methyl)morpholine-4-carboxylate | 120 mg, 6% | ClC=1C=C(C=CC1)[C@@H]([C@H]1CN(CCO1)C(=O)OC(C)(C)C)OCCNC(=O)OC | C20H29ClN2O6
